US04783459
A solution of 2-anilino-4,6-dimethylpyrimidine (5 g) in toluene was added to a suspension of sodium hydride in oil (0.75 g of an 80% suspension) in toluene (100 ml) and the mixture was heated under reflux until evolution of hydrogen ceased. A solution of trichloroacetyl chloride (2.8 ml) in toluene (20 ml) was added dropwise at room temperature and the mixture heated at 80° for one hour. It was then worked up by filtration through silica using dichloromethane as eluent. The solvent was evaporated and the residue, after solidification, was recrystallised from ethyl acetate/diisopropyl ether to give N-(4,6-dimethylpyrimidin-2-yl)-N-phenyltrichloroacetamide, m.p. 125.5°-7°. (Compound 8).

reactant | 2-anilino-4,6-dimethylpyrimidine | 5 g | N(C1=CC=CC=C1)C1=NC(=CC(=N1)C)C | C12H13N3
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | trichloroacetyl chloride | 2.8 ml | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | N-(4,6-dimethylpyrimidin-2-yl)-N-phenyltrichloroacetamide | CC1=NC(=NC(=C1)C)N(C(C(Cl)(Cl)Cl)=O)C1=CC=CC=C1 | C14H12Cl3N3O
